US08372864B2
6.8 g of tert-butyl [(1S,2R)-1-benzyl-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]carbamate are then dissolved in 250 cm3 of dichloromethane at a temperature close to 20° C. 36.6 cm3 of a 4M solution of hydrochloric acid in dioxane are added. The reaction mixture is kept stirring for 1 h 30 min at a temperature close to 20° C. The reaction mixture is concentrated using a rotary evaporator under reduced pressure (5 kPa). The beige solid obtained is triturated in diisopropyl ether then filtered. 5.4 g of (2R,3S)-3-amino-4-phenyl-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride (2:1) are obtained.

reactant | tert-butyl [(1S,2R)-1-benzyl-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]carbamate | 6.8 g | C(C1=CC=CC=C1)[C@@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C(F)(F)F)O)NC(OC(C)(C)C)=O | C25H31F3N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 250 cm3 | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2R,3S)-3-amino-4-phenyl-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride | 5.4 g | Cl.N[C@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C(F)(F)F)O)CC1=CC=CC=C1 | InChI=1S/C20H23F3N2O.ClH/c21-20(22,23)16-8-4-7-15(12-16)19(9-10-19)25-13-18(26)17(24)11-14-5-2-1-3-6-14;/h1-8,12,17-18,25-26H,9-11,13,24H2;1H/t17-,18+;/m0./s1
